US08895569B2
Scheme I shows the preparation of tert-butyldimethylsilyloxy acetyl chloride. Glycolic acid on reaction with TBDMS-Cl (tert-butyldimethylsilyloxy chloride) in the presence of imidazole provided O-tert-butyldimethylsilyloxy acetic acid, which on reaction with oxalyl chloride gave the desired acid chloride derivative.

reactant | tert-butyldimethylsilyloxy acetyl chloride | [Si](C)(C)(C(C)(C)C)OCC(=O)Cl | C8H17ClO2Si
reactant | Glycolic acid | C(CO)(=O)O | C2H4O3
reactant | TBDMS-Cl | [Si](C)(C)(C(C)(C)C)OCl | C6H15ClOSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | O-tert-butyldimethylsilyloxy acetic acid | [Si](C)(C)(C(C)(C)C)OOC(C)=O | C8H18O3Si
